.subckt oa2ii2_x1 A1 A2 B1 B2 X VDD VSS
XOA2II2L0_PA0 oa2ii2_l A1 VDD VDD pmos w=2u l=100n
XOA2II2L0_PB0 oa2ii2_l A2 VDD VDD pmos w=2u l=100n
XOA2II2L0_NB0 oa2ii2_l A2 nmid_OA2II2L0_0 VSS nmos w=1u l=100n
XOA2II2L0_NA0 nmid_OA2II2L0_0 A1 VSS VSS nmos w=1u l=100n
XOA2II2R0_PA0 pmid_OA2II2R0_0 B1 VDD VDD pmos w=2u l=100n
XOA2II2R0_PB0 oa2ii2_r_n B2 pmid_OA2II2R0_0 VDD pmos w=2u l=100n
XOA2II2R0_NA0 oa2ii2_r_n B1 VSS VSS nmos w=1u l=100n
XOA2II2R0_NB0 oa2ii2_r_n B2 VSS VSS nmos w=1u l=100n
XOA2II2RI0_P0 oa2ii2_r oa2ii2_r_n VDD VDD pmos w=2u l=100n
XOA2II2RI0_N0 oa2ii2_r oa2ii2_r_n VSS VSS nmos w=1u l=100n
XOA2II2N20_PA0 oa2ii2_and_n oa2ii2_l VDD VDD pmos w=2u l=100n
XOA2II2N20_PB0 oa2ii2_and_n oa2ii2_r VDD VDD pmos w=2u l=100n
XOA2II2N20_NB0 oa2ii2_and_n oa2ii2_r nmid_OA2II2N20_0 VSS nmos w=1u l=100n
XOA2II2N20_NA0 nmid_OA2II2N20_0 oa2ii2_l VSS VSS nmos w=1u l=100n
XOA2II2O0_P0 X oa2ii2_and_n VDD VDD pmos w=2u l=100n
XOA2II2O0_N0 X oa2ii2_and_n VSS VSS nmos w=1u l=100n
.ends oa2ii2_x1
